US08067408B2
Methyl 3-[({[6-Fluoro-3′-(hydroxymethyl)-3-biphenylyl]-methyl}amino) carbonyl]benzoate
To 3-[(methyloxy)carbonyl]benzoic acid (0.18 g, 1 mmol) in CH2Cl2 (25 mL) was added HBTU (0.379 g, 1 mmol), followed by [5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methanol (0.231 g, 1 mmol), and triethylamine (0.278 mL, 2 mmol). The mixture was stirred under argon overnight. The reaction mixture was then concentrated to dryness, and taken up in EtOAc and H2O. The organic phase was washed 2× with H2O, 1× with brine, dried and concentrated. The residue was absorbed on Isolute® Sorbent, and CombiFlashed on a 12 g column eluted with 0-100% EtOAc/hexane to afford the title compound as a white solid. LC-MS m/z 393.8 (M+H)+, 1.98 min (ret time); analytical HPLC shows 97.2% purity, (ret time 7.205 min).

reactant | 3-[(methyloxy)carbonyl]benzoic acid | 1 mmol, 0.18 g | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | HBTU | 1 mmol, 0.379 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | [5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methanol | 1 mmol, 0.231 g | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CO)F | C14H14FNO
reactant | triethylamine | 2 mmol, 0.278 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-[({[6-Fluoro-3′-(hydroxymethyl)-3-biphenylyl]-methyl}amino) carbonyl]benzoate | FC1=CC=C(C=C1C1=CC(=CC=C1)CO)CNC(=O)C=1C=C(C(=O)OC)C=CC1 | C23H20FNO4
